Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Zosyn / Oxaliplatin
 
Attending: ___.
 
Chief Complaint:
Bloody diarrhea, coffee-ground emesis
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy
 
History of Present Illness:
___ h/o metastatic colon cancer s/p ___ irinotecan, 
presented with watery black stools x24H, nausea, and 
non-bloody/non-coffee-ground emesis x1 one day prior to admit. 
During this time, pt noted that chronic baseline diarrhea [on 
Lomotil (diphenoxylate, atropine), loperamide, tincture of 
opium] increased significantly, with black stools and no frank 
blood.  
.  
ED course:  
# Vitals: SBP 80 --> SBP 100 with 1L IVF bolus; HR ___  
# Labs: Hct 36.1 (baseline)  
# Clinical course:  
--Black guaiac positive stool in vault  
--NG lavage with 900cc: Clot, fresh blood  
--SVT to 200 bpm --> Adenosine x2, diltiazem --> NSR  
# Meds: Pantoprazole 40mg IV, erythromycin 125mg IV for motility 
 
.  
MICU course: Admitted for urgent EGD. Hct stable while in MICU.
.  
Initial ROS:  
(+) Gassy discomfort, chills, lip blisters since last chemo  
(-) Abdominal pain, LH/dizziness, F, CP/SOB, HA/sensory changes, 
URI sx, myalgias/arthralgias  
 
Past Medical History:
POncH  
# Colon cancer (T3N1, stage IIIB, dx ___ c/b liver, 
pancreas, lung mets  
- s/p L colectomy  
- s/p adjuvant Folfox/bevacizumab x8 cycles  
- s/p segmental liver resection (___)  
- s/p pancreatic cyberknife tx (___)  
- chronic splenic vein occlusion  
- irinotecan  
- d/c chemotherapy ___ s/p oxaliplatin reaction  
- Current therapy: Irinotecan ___ - current) Q2WKS c/b 
diarrhea  
.  
PMH  
# Hypertension  
# Depression  
# pAfib (___) 

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
# VS: T 98.4, BP 89/76, HR 80, RR 21, O2sat 100% RA  
GEN: NAD  
HEENT: Crusted lesions on upper lip, OP clear, MMM, no LAD, neck 
supple, no JVD  
CV: RRR, S1S2 (S2 loud), no m/r/g  
RESP: CTAB  
ABD: Soft, NTND, BS+  
EXT: No c/c/e, WWP 
 
Pertinent Results:
___ 09:45AM   WBC-4.5 RBC-4.05* HGB-12.1* HCT-36.1* MCV-89 
MCH-29.7 MCHC-33.4 RDW-14.6
___ 09:45AM   NEUTS-81.3* BANDS-0 LYMPHS-14.5* MONOS-1.3* 
EOS-2.5 BASOS-0.4
___ 09:45AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL
___ 10:11AM   ___ PTT-25.2 ___
.
Studies:
.
# CT TORSO W/CONTRAST  ___ 3:53 ___
1. Compared to prior exam from ___, there is slight 
increase in the size of poorly defined pancreatic mass.
2. Marginal increase in size of Left 
supraclavicular/retroperitoneal lymphadenopathy, hepatic 
lesions, and left lower lobe metastatic lesion.
3. Chronic occlusion of the splenic vein/artery and SMV, with 
extensive network of varices as described above. 
.
# EGD ___: No esophageal varices. Varices at the stomach. A 
large ulcerated mass lesion was seen in the region of the 
angularis (distal ___ antrum). No visible vessel, oozing 
or active bleeding was seen. Blood in the stomach. Otherwise 
normal EGD to second part of the duodenum. 
.
# Gastric mass biopsy ___
1.  Adenocarcinoma, see note
2.  Immunostains of the tumor are strongly positive for cdx2 and 
 cytokeratin CK-20; and focally positive for CK-7 with 
satisfactory controls.
3.  Separate fragments of gastric fundic mucosa without 
dysplasia.
Note:  The tumor histology and immunoprofile are most suggestive 
of a metastatic colonic carcinoma.
 
Brief Hospital Course:
___ h/o metastatic colon cancer, admitted with UGIB ___ 
ulcerated stomach mass, found to have metastatic colon cancer to 
incisura of stomach.  
.  
# UGIB: UGIB found to be ___ ulcertated mass ___ metastatic 
colon cancer per pathology obtained during EGD.  Pt was started 
on pantoprazole 40mg PO daily, as well as inpatient XRT to 
stomach x 2 sessions.  Upon discharge, pt was scheduled to 
complete XRT as outpatient, with hct stable x 48 hours.  
.  
# Anemia: Anemia was considered likely ___ UGIB and ACI given 
metastatic colon cancer.  Pt received PRBC as necessary, and 
upon discharge, hematocrit had been stable x48H.  
.  
# Tachycardia: Pt was noted to be in AVRT/AVNRT in the ED, 
considered ___ blood loss.  Tachycardia resolved with IVF, blood 
transfusion, and pt was maintained on metoprolol 12.5 mg PO BID.
.  
# Metastatic colon cancer: Pt was found to have metastatic colon 
cancer to the stomach and was started on XRT as inpatient, with 
irinotecan chemotherapy held during XRT course.
.  
# Cold sores: Pt's HSV lip lesions resolved without intervention 
during inpatient admission.
.  
# Full code
 
Medications on Admission:
Metoprolol 25mg PO daily  
Creon 20mg daily  
Loperamide 4mg PO QID PRN  
Lomotil 2.5mg-0.025mg ___ tabs PO QID PRN  
Opium tincture QID PRN  
KCL 20mEq BID  
Clonazepam 1mg PO daily  
MVI  
.  
ALL:  
Piperacillin/tazobactam --> Hives  
Oxaliplatin --> Red man syndrome  

 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
2. Clonazepam 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO QAM: Take upon 
awakening.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. Amylase-Lipase-Protease 33,200-10,000- 37,500 unit Capsule, 
Delayed Release(E.C.) Sig: One (1) Cap PO QIDWMHS (4 times a day 
(with meals and at bedtime)).
Disp:*120 Cap(s)* Refills:*2*
6. Loperamide 2 mg Capsule Sig: Two (2) Capsule PO four times a 
day as needed for diarrhea.
Disp:*30 Capsule(s)* Refills:*5*
7. Lomotil 2.5-0.025 mg Tablet Sig: ___ Tablets PO four times a 
day as needed for diarrhea.
Disp:*40 Tablet(s)* Refills:*5*
8. Opium Tincture 10 mg/mL Tincture Sig: One (1) mL PO four 
times a day as needed for diarrhea.
Disp:*120 mL* Refills:*0*
9. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal Sig: 
One (1) Tab Sust.Rel. Particle/Crystal PO twice a day.
Disp:*60 Tab Sust.Rel. Particle/Crystal(s)* Refills:*2*
10. Multiple Vitamin-Minerals     Tablet Sig: One (1) Tablet PO 
once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
.
# Upper GI bleeding
# Metastatic colon cancer at stomach incisura
# Paroxysmal atrial fibrillation
.
Secondary diagnosis
.
# Hypertension  
# Depression
 
Discharge Condition:
Stable hematocrit over the last 48 hours.
 
Discharge Instructions:
You were admitted because you were bleeding in your stomach.  We 
did an esophagogastroduodenoscopy and found a bleeding mass in 
your stomach, which was metastatic colon cancer.  We started you 
on radiation therapy to the stomach, and you stopped bleeding.
.
We also found that your heart rate was initially fast when you 
were bleeding, but then it normalized when we transfused blood.
.
You have two more follow-up appointments to get radiation 
therapy to your stomach (see below).  Please take your 
anti-nausea medication before you arrive for your radiation 
therapy appointments.
.
We have added a new medication to your regimen:
# FOR YOUR STOMACH:  Take pantoprazole 40mg every 24hours.
.
Otherwise, we have not changed your medications.
.
If you have any worrisome symptoms, call Dr. ___ to 
the emergency room.
 
Followup Instructions:
___